US07507740B2
Production of ethyl 5-[(4-{[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}-5H-pyrrolo[3,2-d]pyrimidin-5-yl)methyl]-2-furoate
To a solution of ethyl 5-[(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)methyl]-2-furoate (300 mg) in 1-methyl-2-pyrrolidone (2.0 mL) was added 3-chloro-4-(pyridin-2-ylmethoxy)aniline (360 mg), and the mixture was heated to 140° C. and stirred for 1.5 hrs. The reaction mixture was allowed to cool to room temperature, diluted with 5% aqueous sodium hydrogen carbonate solution (30 mL) and extracted with a mixed solvent (45 mL×3) of ethyl acetate/tetrahydrofuran (1/1). The organic layer washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was subjected to silica gel column chromatography (basic silica gel, eluent:ethyl acetate/methanol=10/0→8/2). The object fraction was concentrated under reduced pressure. Chloroform/diisopropyl ether (1/9) was added to the residue, and the resultant precipitate was collected by filtration and dried under reduced pressure to give the title compound (440 mg) as pale-yellow powder crystals.

reactant | ethyl 5-[(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)methyl]-2-furoate | 300 mg | ClC=1C2=C(N=CN1)C=CN2CC2=CC=C(O2)C(=O)OCC | C14H12ClN3O3
reactant | 3-chloro-4-(pyridin-2-ylmethoxy)aniline | 360 mg | ClC=1C=C(N)C=CC1OCC1=NC=CC=C1 | C12H11ClN2O
solvent | 1-methyl-2-pyrrolidone | 2.0 mL | CN1C(CCC1)=O | C5H9NO
solvent | sodium hydrogen carbonate | 30 mL | C(O)([O-])=O.[Na+]
product | ethyl 5-[(4-{[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}-5H-pyrrolo[3,2-d]pyrimidin-5-yl)methyl]-2-furoate | 440 mg | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC=1C2=C(N=CN1)C=CN2CC2=CC=C(O2)C(=O)OCC | C26H22ClN5O4
